US06583156B1
2,8-Bis(trifluoromethyl)-3-methyl-4-quinolinol
To polyphosphoric acid (101 g) heated to 75° C. was added ethyl 2-methyl-4,4,4-trifluoroacetoacetate (10.0 g, 50.5 mmol). 2-Trifluoromethylaniline (6.0 mL, 48.1 mmol) was added dropwise and the reaction mixture heated to 120° C. for 6 h, cooled in ice and treated with water. The cream precipitate was filtered and washed with water and heptane to afford the product (11.4 g, 80%) as a white solid: mp 116.2-116.8° C.; IR νmax (Nujol)/cm−1 3440, 2924, 2854, 1624, 1612, 1584, 1458, 1330, 1226, 1142, 1109; NMR δH (400 MHz, CDCl3) 2.29 (3H, s), 7.47 (1H, t, J 7.6 Hz), 7.98 (1H, d, J 7.6 Hz), 8.60 (1H, d, J 7.4 Hz).

reactant | ethyl 2-methyl-4,4,4-trifluoroacetoacetate | 50.5 mmol, 10.0 g | CC(C(=O)OCC)C(=O)C(F)(F)F | C7H9F3O3
reactant | 2-Trifluoromethylaniline | 48.1 mmol, 6.0 mL | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
solvent | water | O | H2O
product | 2,8-Bis(trifluoromethyl)-3-methyl-4-quinolinol | 11.4 g, 80% | FC(C1=NC2=C(C=CC=C2C(=C1C)O)C(F)(F)F)(F)F | C12H7F6NO
